US04705786
A solution of 8.0 g of 5-acetonyl-3-chloromethyl-1,2,4-oxadiazole, 6.92 g of 3-nitrobenzaldehyde and 5.27 g of methyl 3-aminocrotonate in 20 ml of isopropyl alcohol was heated under reflux for 6 hours. After ice-cooling, the precipitated solid was collected by filtration, washed with cold isopropyl alcohol and dried to give 11.8 g of methyl 1,4-dihydro-2,6-dimethyl-3-(3-chloromethyl-1,2,4-oxadiazol-5-yl)-4-(3-nitrophenyl)pyridine-5-carboxylate as yellow crystals, m.p. 200.5°-201.5° C.

reactant | 5-acetonyl-3-chloromethyl-1,2,4-oxadiazole | 8.0 g | C(C(=O)C)C1=NC(=NO1)CCl | C6H7ClN2O2
reactant | 3-nitrobenzaldehyde | 6.92 g | [N+](=O)([O-])C=1C=C(C=O)C=CC1 | C7H5NO3
reactant | methyl 3-aminocrotonate | 5.27 g | N\C(=C/C(=O)OC)\C | C5H9NO2
solvent | isopropyl alcohol | 20 ml | C(C)(C)O | C3H8O
product | methyl 1,4-dihydro-2,6-dimethyl-3-(3-chloromethyl-1,2,4-oxadiazol-5-yl)-4-(3-nitrophenyl)pyridine-5-carboxylate | 11.8 g | CC=1NC(=C(C(C1C1=NC(=NO1)CCl)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OC)C | C18H17ClN4O5
